US08183380B2
Step A: rac-7-Methoxy-indan-1-ylamine:
A mixture of 7-methoxy-indan-1-one oxime (CAS no: 908108-58-7, (E)-oxime 179899-16-2) (4.59 g, 25.9 mmol) in ethanol (500 mL) with 10% palladium on carbon (4.59 g) was hydrogenated at 23° C. and atmospheric pressure for 16 h. Filtered the catalyst off, washed with ethanol, evaporated the filtrate totally and dried in high vacuum to give the title compound as a brown oil (2.7 g, 64%); MS: m/e=164.2 (M+H+).

reactant | 7-methoxy-indan-1-one oxime | COC=1C=CC=C2CCC(C12)=NO | C10H11NO2
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 4.59 g | [Pd] | Pd
product | rac-7-Methoxy-indan-1-ylamine | 2.7 g, 64% | COC=1C=CC=C2CCC(C12)N | C10H13NO
